Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache, vision changes
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
Mr. ___ is a ___ man with hx chronic prostatitis and
bacterial meningitis (at age ___ who presents from PCP office
with recent diagnosis of syphilis and ongoing HA, fevers, 
chills,
and malaise as well as visual changes and new LFT elevation
despite bicillin treatment.

The patient was first diagnosed with syphilis on ___ when he
presented to his PCP with several days of headache, body aches,
fatigue, low grade fever, chills, and night sweats. Testing at
that time was significant for a reactive T. pallidum Ab and RPR
titer 1:8. Last checked and negative on ___. He received
bicillin 2.4mill/U IM on ___. At that time, there was some
concern for syphilis meningitis given his symptoms, and
outpatient LP was planned for ___. However, on follow-up 
with
his PCP ___ ___, he was reporting blurring of vision in addition
to persistence of symptoms mentioned above, as well as new
transaminitis (alk phos 241, ALT 75) on recent labs. Given
concern for failed outpatient management, the patient was sent
directly to the ED. 

In the ED, initial VS T 97.8, HR 78, BP 124/79, RR 18, SaO2 98%
on RA. The patient endorsed a multitude of symptoms including
myalgias, dysuria, urgency, difficulty initiating stream,
anorexia, abdominal pain, dyspnea, rhinorrhea, cough, and 
blurred
vision. Exam significant for abdominal distention, otherwise
unremarkable. Labs notable for WBC 4.2, Hb 12.1, ALT 65, AST 34,
alk phos 229, T bili 0.7, Cr 1.0. UA bland. CT head negative. LP
and RUQUS were performed. The patient was given 1L NS, 2g CTX, 
1g
APAP, 0.5mg Ativan IV.    

Upon arrival to the floor, the patient endorses the above
history. He adds that his symptoms of subjective fevers, chills,
night sweats, HA, nausea, and abdominal bloating started at the
beginning of ___ and have been persistent but stable since
then. He describes the HA as starting at the base of his neck 
and
coming over the head to the eyes bilaterally, feels like "skin
tightening." The vision changes he has only noted in the past 2
days, describes as blurring of vision when looking at distant
objects, but he thinks he had been using his reading glasses 
more
frequently in the past week or so. 

He also reports 3 trips to ___ in the past six months, most
recently a 5-day trip to ___ in ___, returned ___. He
was in a rural area. He drank bottled water only, but did eat 
raw
foods including salads. He reports there were several people in
the area with dengue fever.   

 
Past Medical History:
- Chronic prostatitis, followed by urologist Dr. ___ at 
___
- History of bacterial meningitis at age ___, treated at
___, 2-day hospitalization
- Bilateral knee meniscal injury
- Tonsillectomy age ___
 
Social History:
___
Family History:
Mother - died from breast CA at age ___
Father - died from brain tumor at age ___
Paternal aunt - colon CA
MGM - uterine CA
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: ___ 1609 Temp: 97.8 PO BP: 108/65 HR: 76 RR: 18 O2
sat: 96% O2 delivery: RA  
GENERAL: Alert and interactive. In no acute distress. 
HEENT: NCAT. EOMI. Sclera anicteric and without injection. MMM. 
NECK: No cervical lymphadenopathy. No JVD. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing. 
BACK: No spinous process tenderness. No CVA tenderness. 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly. 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally. 
SKIN: Warm. Cap refill <2s. No rash. 
NEUROLOGIC: A/Ox3, R pupil slightly sluggish but reactive,
otherwise CN ___ intact, strength ___, sensation intact to 
light
touch all extremities, reflexes wnl, gait normal

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 811)
    Temp: 97.7 (Tm 98.2), BP: 110/71 (108-132/69-76), HR: 66
(66-89), RR: 16 (___), O2 sat: 98% (97-98), O2 delivery: RA    

GENERAL: in no acute distress, lying in bed reading
HEENT: sclerae anicteric, OP clear 
CARDIAC: RRR, nl s1/s2, no m/g/r 
LUNGS: CTAB, no wheezing or crackles
ABDOMEN: NABS, soft, nontender, mildly distended, no HSM or
masses noted
EXTREMITIES: warm, no ___ edema
SKIN: no notable lesions
NEUROLOGIC: A/Ox3, face symmetric, fluid speech, moving all
extremities
 
Pertinent Results:
ADMISSION LABS:
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
___ 10:50AM BLOOD WBC-4.2 RBC-4.22* Hgb-12.1* Hct-36.8* 
MCV-87 MCH-28.7 MCHC-32.9 RDW-12.5 RDWSD-39.4 Plt ___
___ 10:50AM BLOOD WBC-4.2 RBC-4.22* Hgb-12.1* Hct-36.8* 
MCV-87 MCH-28.7 MCHC-32.9 RDW-12.5 RDWSD-39.4 Plt ___
___ 10:50AM BLOOD Neuts-55.1 ___ Monos-12.1 Eos-1.7 
Baso-0.5 AbsNeut-2.33 AbsLymp-1.29 AbsMono-0.51 AbsEos-0.07 
AbsBaso-0.02
___ 10:50AM BLOOD ___ PTT-27.0 ___
___ 10:50AM BLOOD Glucose-78 UreaN-15 Creat-1.0 Na-141 
K-4.2 Cl-102 HCO3-24 AnGap-15
___ 10:50AM BLOOD ALT-65* AST-34 AlkPhos-229* TotBili-0.7
___ 10:50AM BLOOD Albumin-4.3 Calcium-9.2 Phos-3.5 Mg-2.1

DISCHARGE LABS:
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
___ 07:23AM BLOOD WBC-3.6* RBC-4.11* Hgb-12.0* Hct-35.9* 
MCV-87 MCH-29.2 MCHC-33.4 RDW-12.7 RDWSD-39.8 Plt ___
___ 07:23AM BLOOD Glucose-85 UreaN-13 Creat-1.0 Na-141 
K-4.3 Cl-101 HCO3-26 AnGap-14
___ 07:23AM BLOOD ALT-93* AST-76* LD(LDH)-242 AlkPhos-195* 
TotBili-0.5
___ 07:23AM BLOOD Calcium-9.4 Phos-3.6 Mg-2.2

OTHER PERTINENT LABS:
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
___ 06:25AM BLOOD Ret Aut-1.8 Abs Ret-0.07
___ 06:25AM BLOOD GGT-193*
___ 10:50AM BLOOD Lipase-36
___ 06:25AM BLOOD Hapto-25*
___ 01:20PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-NEG 
IgM HAV-NEG
___ 01:20PM BLOOD CMV IgG-POS* CMV IgM-NEG CMVI-Generally  
EBV IgG-POS* EBNA-POS* EBV IgM-NEG EBVI-Results in
___ 10:50AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:25AM BLOOD CMV VL-NOT DETECT
___ 10:30AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 10:30AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 10:35AM CEREBROSPINAL FLUID (CSF) TNC-3 RBC-1 Polys-0 
___ ___ 10:35AM CEREBROSPINAL FLUID (CSF) TotProt-65* 
Glucose-51

MICROBIOLOGY:
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
___ URINE CULTURE 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    10,000-100,000 
CFU/mL. 
___ BLOOD CULTURE NO GROWTH
___
      CRYPTOCOCCAL AG NEGATIVE
      NO FUNGUS ISOLATED
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      NO GROWTH

IMAGING:
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
___  CT HEAD W/O CONTRAST
No evidence of acute intracranial process.

___  ABDOMINAL ULTRASOUND
1. No evidence of gallstones or secondary signs of acute 
cholecystitis.
2. Echogenic lesion in the right hepatic lobe measuring 0.8 cm, 
may representa hemangioma.
3. Splenomegaly measuring 16.6 cm.

___  CHEST (PA & LAT)
No evidence of acute cardiopulmonary disease.

OTHER DIAGNOSTIC:
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
___  Herpes Simplex Virus, PCR, CSF NEGATIVE
___  CSF VDRL NEGATIVE

 
Brief Hospital Course:
See Discharge Worksheet
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 

 
Discharge Medications:
1.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
# Transaminitis

SECONDARY:
# Primary syphilis
# Anemia
# Chronic prostatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you. 

You were admitted because you were having ongoing generalized 
symptoms as well as new vision changes concerning for syphilis 
involving the brain/nerves, known as "neurosyphilis." 

You were started on intravenous penicillin to treat syphilis. 
You had a lumbar puncture. Testing from the lumbar puncture 
shows that you do not have neurosyphilis. You were also testing 
for other infections including EBV, CMV, and bacterial 
infections which were negative, although some labs were still 
pending. 

When you go home you should continue to take your prescribed 
medications and follow up with your PCP at ___. 

Best,

Your ___ Care Team
 
Followup Instructions:
___